Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Endoleak
 
Major Surgical or Invasive Procedure:
___ Gore limb extension to right common iliac artery for 
endoleak

 
History of Present Illness:
___ is a ___ patient who returns for an 
additional attempt to stentgraft a known endoleak. 

 
Past Medical History:
PMH: appendectomy, hemorrhoid, and lipoma  
PSH: EVAR with attempts to coil embolization  

 
Social History:
___
Family History:
n/c
 
Physical Exam:
98.5    HR: 59    BP: 129/71    RR: 18    Spo2: 99%
Alert and oriented x 3
Cardiac: RRR, + S1, S2
Lungs: CTA
abd: soft, NT, ND
Bilateral groin sites: CDI, no hematoma or bleeding
Palpable bilateral pulses
 
Pertinent Results:
___ 07:25AM BLOOD WBC-7.9 RBC-4.03* Hgb-13.2* Hct-37.9* 
MCV-94 MCH-32.8* MCHC-34.9 RDW-15.0 Plt ___
___ 03:54PM BLOOD WBC-6.2 RBC-4.19* Hgb-13.9* Hct-38.8* 
MCV-93 MCH-33.3* MCHC-35.9* RDW-15.1 Plt ___
___ 07:25AM BLOOD Plt ___
___ 03:54PM BLOOD Plt ___
___ 07:25AM BLOOD Glucose-111* UreaN-14 Creat-1.1 Na-141 
K-4.2 Cl-100 HCO3-35* AnGap-10
___ 07:25AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.0
 
Brief Hospital Course:
The patient was taken to the OR for an planned stentgraft. 
Post-operatively, the patient did well.  He remained on bedrest 
for the appropriate time period.  After bedrest, the patient 
ambulated without difficulties.  There was no gross 
hematoma/pseudoaneurysmal formation noted on physical 
examination.  The patient was tolerating a regular diet.  
Voiding without difficulties.  

On the day of discharge, the creatinine was 1.1.  The patient is 
afebrile and denies any pain. He was discharged home. He will 
follow up with Dr. ___ in one month with a CTA.

 
Medications on Admission:
1. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  


3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

6. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endoleak (pre op)
PMH:
EVAR with attempts to coil embolization 

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Endovascular Abdominal Aortic Aneurysm (AAA) Discharge 
Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and CTA 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

 
Followup Instructions:
___